US07977331B1
To a solution of ethyl 3-chloro-12-cyclohexyl-5-[2-(piperidin-1-yl)ethyl]-5,6,7,12-tetrahydrobenzo[2,3]azepino[4,5-b]indole-9-carboxylate (309 mg, 0.579 mmol) in tetrahydrofuran (4 ml) and methanol (4 ml) was added 1N aqueous sodium hydroxide solution (2 ml), and the mixture was stirred at 70° C. for 2 hr. The mixture was allowed to cool to room temperature, 4N aqueous lithium hydroxide solution (2 ml) was added, and the mixture was stirred at 70° C. for 2 hr. The mixture was allowed to cool to room temperature, water (100 ml) was added, and the mixture was extracted with ethyl acetate (20 ml) and ether (10 ml). The aqueous layer was adjusted to pH 7 with 1N hydrochloric acid, and the precipitated solid was collected by filtration. The obtained solid was washed with water and dried in vacuo to give 3-chloro-12-cyclohexyl-5-[2-(piperidin-1-yl)ethyl]-5,6,7,12-tetrahydro-benzo[2,3]azepino[4,5-b]indole-9-carboxylic acid (212 mg, yield 72%).

reactant | ethyl 3-chloro-12-cyclohexyl-5-[2-(piperidin-1-yl)ethyl]-5,6,7,12-tetrahydrobenzo[2,3]azepino[4,5-b]indole-9-carboxylate | 0.579 mmol, 309 mg | ClC=1C=CC2=C(N(CCC3=C2N(C2=CC=C(C=C32)C(=O)OCC)C3CCCCC3)CCN3CCCCC3)C1 | C32H40ClN3O2
reactant | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
reactant | lithium hydroxide | 4N, 2 ml | [OH-].[Li+]
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | methanol | 4 ml | CO | CH4O
product | 3-chloro-12-cyclohexyl-5-[2-(piperidin-1-yl)ethyl]-5,6,7,12-tetrahydro-benzo[2,3]azepino[4,5-b]indole-9-carboxylic acid | 212 mg, yield 72% | ClC=1C=CC2=C(N(CCC3=C2N(C2=CC=C(C=C32)C(=O)O)C3CCCCC3)CCN3CCCCC3)C1 | C30H36ClN3O2
